US06180649B2
1-(1-Phenethyl-piperidin-4-yl)-1,3-dihydro-benzimidazol-2-one.
A mixture of 1-piperidin-4-yl-1,3-dihydro-benzimidazol-2-one (0.5 g, 2.3 mmol), 2-phenyl-ethylbromid (0.34 ml, 2.5 mmol), triethylamine (0.35 ml, 2.5 mmol) and sodium iodide (0.01 g, 0.67 mmol) in dry N,N-dimethyl foramide (5 ml) was stirred at 100° C. for 3 hours. The reaction mixture was cooled to room temperature, and then poured into water (20 ml). The product precipitated upon stirring on a ice/water bath and was isolated by filtration. Yield 0.45 g (1.4 mmol, 61%). M.p. 181-185° C.

reactant | 1-piperidin-4-yl-1,3-dihydro-benzimidazol-2-one | 2.3 mmol, 0.5 g | N1CCC(CC1)N1C(NC2=C1C=CC=C2)=O | C12H15N3O
reactant | 2-phenyl-ethylbromid | 2.5 mmol, 0.34 ml | C1(=CC=CC=C1)CCBr | C8H9Br
reactant | triethylamine | 2.5 mmol, 0.35 ml | C(C)N(CC)CC | C6H15N
reactant | sodium iodide | 0.67 mmol, 0.01 g | [I-].[Na+]
solvent | N,N-dimethyl foramide | 5 ml | CN(C=O)C | C3H7NO
solvent | water | 20 ml | O | H2O
product | 1-(1-Phenethyl-piperidin-4-yl)-1,3-dihydro-benzimidazol-2-one | C(CC1=CC=CC=C1)N1CCC(CC1)N1C(NC2=C1C=CC=C2)=O | C20H23N3O
